US06673809B2
1-[4-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclopent-2-enyl]3-phenyl-urea
To a stirred solution of 5-(4amino-cyclopent-2-enyl)9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one (50 mg, 0.16 mmol) in CH2Cl2 (2 mL) was added isocyanatobenzene (0.018 mL, 0.18 mmol) and DMAP (catalytic amount) and stirred at r.t for 2 hours. The mixture was diluted with CH2Cl2, washed (brine), dried (Na2SO4), filtered and concentrated Column chromatography (silica gel, hexanes/ethyl acetate, gradient) gave the tide compound (35 mg, 50%). Mass Spectrum (M) (m/z) 433.3 (M−1). Anal. Calc. For C23H19ClN4O3; Theoretical: C, 63.52, H, 4.40, N, 12.88%; Found: C, 63.82, H, 4.45, N, 12.49%.

reactant | 5-(4amino-cyclopent-2-enyl)9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one | 0.16 mmol, 50 mg | NC1C=CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C16H14ClN3O2
reactant | isocyanatobenzene | 0.18 mmol, 0.018 mL | N(=C=O)C1=CC=CC=C1 | C7H5NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-[4-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclopent-2-enyl]3-phenyl-urea | 35 mg, 50% | ClC=1C=2C=3C(C(N(C2C=CC1)C1C=CC(C1)NC(=O)NC1=CC=CC=C1)=O)=C(ON3)C | C23H19ClN4O3
